2188-09-05 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -nsg is concerned about who should be changing the dressing, apparently
   surgery was doing it on the floor
   -bp responded well to bolus
   -ID recommends 48hrs vanc/cef, then switch back to ancef if cx neg
   -neurosurg did not come by
   -for tomorrow: contact ethics service and d/w old team the social sit
   re decision making
   -tube feeds started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2188-9-3**] 10:00 PM
   Vancomycin - [**2188-9-4**] 08:00 PM
   Cefipime - [**2188-9-5**] 12:37 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-9-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-5**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 81 (67 - 101) bpm
   BP: 142/66(85) {89/54(63) - 154/76(109)} mmHg
   RR: 20 (19 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,034 mL
                                                                    757 mL
   PO:
             TF:
                                                                     65 mL
                                                                    160 mL
   IVF:
                                                                  1,969 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    385 mL
   Urine:
                                                                    995 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 380) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: ///29/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   9.8 g/dL
   102 mg/dL
   0.9 mg/dL
   29 mEq/L
   2.9 mEq/L
   17 mg/dL
   108 mEq/L
   144 mEq/L
   29.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2188-9-3**]  09:58 PM
                             [**2188-9-4**]  12:20 AM
                             [**2188-9-4**]  05:25 AM
                             [**2188-9-4**]  03:14 PM
                             [**2188-9-5**]  03:04 AM
   WBC
   12.5
   13.6
   7.4
   Hct
   36.5
   33.3
   29.3
   Plt
   [**Telephone/Fax (3) 8045**]
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   0.19
   TCO2
   36
   Glucose
   155
   112
   81
   102
   Other labs: PT / PTT / INR:20.2/35.5/1.9, CK / CKMB /
   Troponin-T:66//0.19, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:391 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR - FINDINGS: On the single view presented, the endotracheal
   tube cannot be
   visualized. Hazy opacification is again seen in both lungs consistent
   with
   layering effusions. Nasogastric tube extends to the stomach.
   Microbiology: blood cx - [**8-31**]/, [**9-3**]/ &[**9-4**] - NGTD
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC
   JOINT, ORTHOPAEDIC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   83 yo F c h/o chondrosarcoma s/p resection, posterior fixation s/p
   chronic, non-healing thoracic ulcer presenting with paraspinal abscess
   with paraplegia at ~T10, osteomyelitis/diskitis.  Patient
s course
   complicated by a GIB, ARF resolved and now respiratory failure.
   # Hypercarbic respiratory failure
 Most likely cause is volume
   overload secondary to PRBC transfusion in patient with poor baseline
   pulmonary reserve given previous kyphoscoliosis, bilateral effusion and
   inablility to fully expand lungs as previously noted in pulmonary
   consultation.  Effusion appears acutely worse on CXR.  Concern for
   possible aspiration however bedside bronch did not reveal any
   obstruction/consolidation
   - continue mechanical ventilation with CMV/A/C.
   - avoid lasix for now as patient blood pressure is very sensitive to
   sedation and she is intermittently requiring pressors.
   - plan for thoracentesis in AM.
   - vancomycin and cefepime for empiric HAP.
   - fup cx.
   # Hypotension
 Patient became hypotensive after intubation and after
   she was given sedation.  Patient was given a 500 CC bolus and levofed
   with good improvement in blood pressures.   BP very sensitive to
   sedative medications, and improved rapidly with decreased sedation.
   However she does have a source of infection and could be evolving
   sepsis/SIRS
   - will continue to monitor; support with levophed PRN to keep MAP >65.
   .
   # Paraspinal abscess/osteomyelitis -  Patient was on cefazolin for Coag
   + staph in wound.  TEE neg for vegetations; BCx negative to date.
   - Fup with neurosurg re: appropriateness for surgery
   - continue wound care
   - f/u ID recs
   - continue abx as above, narrow as able to cefazolin.
   .
   # GI bleed
 Patient received a total of 4 units of PRBC over the past
   2 days.  EGD/[**Last Name (un) **] delayed [**2-4**] elevated INR 2 days ago of unclear
   etiology.
   - continue pantoprazole IV BID
   - fup GI recs
   - NPO for now
   .
   # INR
 Patient
s INR increased to 4.0 several days ago and pt was
   given Vit K 5 mg and FFP 4 units.  INR 1.1 more recently.  Continue to
   monitor.
   .
   # h/o ARF, now resolved.  Thought to be secondary to AIN r/t exposure
   of nafcillin
   - continue to monitor UOP and Cr/BUN
   .
   # nutrition/swallow - Pt was noted to have poor swallowing during
   meals. Soft meals with thickened liquids with 1:1 observation during
   meals per Nutrition recs. No aspiration seen on video swallow study.
   .
   # CAD s/p CABG  - holding metoprolol for now [**2-4**] hypotension.
   Discontinued aspirin [**2-4**] recent GIB.
   .
   # dementia  - Continue Aricept.
   .
   # FEN
 minimize IVF if possible, NPO  -- pt noted to have unsafe
   swallow prior to intubation
 S/S recommended dysphagia diet.
   # PPx - pneumoboots
   # Access - PIV, PICC in R arm
   # Code - FULL, confirmed with HCP
   # Communication - patient, [**Name (NI) 203**] (HCP) [**Numeric Identifier 7998**] (home), [**Numeric Identifier 7999**]
   (cell)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2188-9-4**] 05:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-3**] 09:49 PM
   20 Gauge - [**2188-9-4**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-09-05 12:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Epidural Abcess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pressors now off
   24 Hour Events:
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2188-9-3**] 10:00 PM
   Vancomycin - [**2188-9-4**] 08:00 PM
   Cefipime - [**2188-9-5**] 12:37 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-9-4**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-9-5**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 91 (67 - 100) bpm
   BP: 123/54(71) {97/54(65) - 154/75(109)} mmHg
   RR: 19 (19 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,034 mL
                                                                  1,392 mL
   PO:
             TF:
                                                                     65 mL
                                                                    172 mL
   IVF:
                                                                  1,969 mL
                                                                  1,060 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    445 mL
   Urine:
                                                                    995 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    947 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 221 (0 - 380) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/38/106/29/3
   Ve: 4.6 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   301 K/uL
   102 mg/dL
   0.9 mg/dL
   29 mEq/L
   2.9 mEq/L
   17 mg/dL
   108 mEq/L
   144 mEq/L
   29.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2188-9-3**]  09:58 PM
                             [**2188-9-4**]  12:20 AM
                             [**2188-9-4**]  05:25 AM
                             [**2188-9-4**]  03:14 PM
                             [**2188-9-5**]  03:04 AM
                             [**2188-9-5**]  09:08 AM
   WBC
   12.5
   13.6
   7.4
   Hct
   36.5
   33.3
   29.3
   Plt
   [**Telephone/Fax (3) 8045**]
   Cr
   0.8
   0.9
   0.9
   0.9
   TropT
   0.19
   TCO2
   36
   28
   Glucose
   155
   112
   81
   102
   Other labs: PT / PTT / INR:20.2/35.5/1.9, CK / CKMB /
   Troponin-T:66//0.19, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:391 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   83 yo F c h/o chondrosarcoma s/p resection, posterior fixation s/p
   chronic, non-healing thoracic ulcer presenting with paraspinal abscess
   with paraplegia at ~T10, osteomyelitis/diskitis.  Patient
s course
   complicated by a GIB, ARF resolved and now respiratory failure.
   # Hypercarbic respiratory failure
 Now on PSV 15/5 --> will continue
   to wean level of support.  On vanc/cefepime for ? pneumonia --> may be
   able to potentially D/C tomorrow
   # Hypotension
 Now off pressors with stable blood pressure
   # Paraspinal abscess/osteomyelitis - Continue cefalozin.  At this point
   not a surgical candidate due to overall risk per neurosurgery
   # GI bleed
 PPI [**Hospital1 **].  Hct stable
   # INR
 Up to INR of 1.9 today --> continue to trend
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-3**] 09:49 PM
   20 Gauge - [**2188-9-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will contact HCP [**First Name8 (NamePattern2) 203**] [**Name (NI) 8051**] -
   [**Telephone/Fax (1) 7994**]) today
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2188-09-06 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2188-9-5**] 12:44 PM
   - SW consulted, HCP is [**Name (NI) 203**] [**Name (NI) 8051**] [**Telephone/Fax (1) 8086**], would like to
   speak with attending later today if possible---> attg spoke with her.
   pt def voiced wishing to be FULL code to HCP. We can readdress this
   when pt more alert
   - Successful extubation
   -spoke w/ gen [**Doctor First Name **] and neurosurg--waiting for attgs to talk and decide
   on OR date. gen [**Doctor First Name **] will call us back.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2188-9-3**] 10:00 PM
   Cefipime - [**2188-9-5**] 12:37 AM
   Vancomycin - [**2188-9-5**] 08:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-6**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 91 (73 - 136) bpm
   BP: 159/81(98) {123/54(71) - 181/125(131)} mmHg
   RR: 22 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.6 kg (admission): 54.4 kg
   Height: 59 Inch
             Total In:
                                                                  1,643 mL
                                                                     62 mL
   PO:
             TF:
                                                                    172 mL
   IVF:
                                                                  1,311 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    280 mL
   Urine:
                                                                  1,155 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    488 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 219 (0 - 221) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 2%
   PIP: 13 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/38/106/27/3
   Ve: 5.2 L/min
   PaO2 / FiO2: 5,300
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   11.1 g/dL
   95 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.6 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   34.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2188-9-3**]  09:58 PM
                             [**2188-9-4**]  12:20 AM
                             [**2188-9-4**]  05:25 AM
                             [**2188-9-4**]  03:14 PM
                             [**2188-9-5**]  03:04 AM
                             [**2188-9-5**]  09:08 AM
                             [**2188-9-5**]  02:43 PM
                             [**2188-9-6**]  04:05 AM
   WBC
   12.5
   13.6
   7.4
   11.1
   10.7
   Hct
   36.5
   33.3
   29.3
   34.0
   34.3
   Plt
   [**Telephone/Fax (3) 8087**]54
   322
   Cr
   0.8
   0.9
   0.9
   0.9
   0.9
   0.8
   TropT
   0.19
   TCO2
   36
   28
   Glucose
   155
   112
   81
   102
   87
   95
   Other labs: PT / PTT / INR:16.0/33.0/1.4, CK / CKMB /
   Troponin-T:66//0.19, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:391 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Microbiology: [**2188-9-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2188-9-4**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2188-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2188-9-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2188-9-2**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2188-8-31**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2188-8-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2188-8-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC
   JOINT, ORTHOPAEDIC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   83 yo F c h/o chondrosarcoma s/p resection, posterior fixation s/p
   chronic, non-healing thoracic ulcer presenting with paraspinal abscess
   with paraplegia at ~T10, osteomyelitis/diskitis.  Patient
s course
   complicated by a GIB, ARF resolved and now respiratory failure.
   # Hypercarbic respiratory failure
 Most likely cause is volume
   overload secondary to PRBC transfusion in patient with poor baseline
   pulmonary reserve given previous kyphoscoliosis, bilateral effusion and
   inablility to fully expand lungs as previously noted in pulmonary
   consultation.  Successful extubation yesterday.
   - continue to monitor respiratory status
   -f/u cultures
   # Hypertension
 Patient intermittently hypertensive at night, to 180's
   systolic
   -on PO metoprolol
   -labetalol PRN
   .
   # Paraspinal abscess/osteomyelitis -  Patient was on cefazolin for Coag
   + staph in wound.  TEE neg for vegetations; BCx negative to date.
   Afebrile. Currently on both vancomycin and cefazolin.
   - Fup with neurosurg/general surgery re: appropriateness for surgery;
   if general surgery will debride, neurosurg can take out hardware
   - continue wound care
   - f/u ID recs
   -f/u cultures
   - will d/c vancomycin and narrow to just cefazolin since afebrile/no
   white count
   .
   # GI bleed
 no evidence of active bleeding.  GI signed off.
   - continue pantoprazole IV BID
   .
   # INR
 Patient
s INR increased to 4.0 several days ago and pt was
   given Vit K 5 mg and FFP 4 units.  INR1.9.
   -  Continue to monitor.
   .
   # CAD s/p CABG  - on  metoprolol. Discontinued aspirin [**2-4**] recent
   GIB.
   .
   # dementia  - Continue Aricept.
   .
   # FEN
 minimize IVF if possible, NPO  -- pt noted to have unsafe
   swallow prior to intubation
 S/S recommended dysphagia diet. Pt was
   noted to have poor swallowing during meals. Soft meals with thickened
   liquids with 1:1 observation during meals per Nutrition recs. No
   aspiration seen on video swallow study.
   # PPx - pneumoboots
   # Access - PIV, PICC in R arm
   # Code - FULL, confirmed with HCP
   # Communication - patient, [**Name (NI) 203**] (HCP) [**Numeric Identifier 7998**] (home), [**Numeric Identifier 7999**]
   (cell)
   #Dispo- if respiratory status remains stable, to floors today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-3**] 09:49 PM
   20 Gauge - [**2188-9-4**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-09-07 06:22:00 Physician Resident Progress Note
Chief Complaint: Patient oriented x 2. Appropriately interactive.
   24 Hour Events:
   -Pt with sats in of 100% on 2L oxygen. Sat's came down to high 80's-low
   90s when weaned to 1% Then, never fully recovered on the 2L, but still
   good. We were ready to transfer her over, when she began sat-ing in the
   low 90's. Got ABG: 7.39/51/71/32. Decided to keep her another night to
   watch her.
   -was diuresed with additional 40mg IV lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2188-9-5**] 12:37 AM
   Vancomycin - [**2188-9-6**] 08:06 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-9-6**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-7**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 88 (77 - 117) bpm
   BP: 156/87(102) {113/65(75) - 171/95(112)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.6 kg (admission): 54.4 kg
   Height: 59 Inch
             Total In:
                                                                    661 mL
                                                                     60 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                    451 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,625 mL
                                                                    240 mL
   Urine:
                                                                  2,625 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,964 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.39/51/71/28/4
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   378 K/uL
   11.4 g/dL
   92 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   16 mg/dL
   103 mEq/L
   143 mEq/L
   35.9 %
   10.2 K/uL
        [image002.jpg]
                             [**2188-9-3**]  09:58 PM
                             [**2188-9-4**]  12:20 AM
                             [**2188-9-4**]  05:25 AM
                             [**2188-9-4**]  03:14 PM
                             [**2188-9-5**]  03:04 AM
                             [**2188-9-5**]  09:08 AM
                             [**2188-9-5**]  02:43 PM
                             [**2188-9-6**]  04:05 AM
                             [**2188-9-6**]  06:05 PM
                             [**2188-9-7**]  02:53 AM
   WBC
   12.5
   13.6
   7.4
   11.1
   10.7
   10.2
   Hct
   36.5
   33.3
   29.3
   34.0
   34.3
   35.9
   Plt
   [**Telephone/Fax (3) 8087**]54
   322
   378
   Cr
   0.8
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   TropT
   0.19
   TCO2
   36
   28
   32
   Glucose
   155
   112
   81
   102
   87
   95
   92
   Other labs: PT / PTT / INR:15.9/32.4/1.4, CK / CKMB /
   Troponin-T:66//0.19, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:391 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR ([**9-6**]):
   Slight interval worsening in bilateral lung opacification with
   bilateral pleural effusion.
   Microbiology: [**2188-9-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2188-9-4**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2188-9-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2188-9-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2188-9-2**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2188-8-31**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2188-8-31**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2188-8-31**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC
   JOINT, ORTHOPAEDIC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   83 yo F c h/o chondrosarcoma s/p resection, posterior fixation s/p
   chronic, non-healing thoracic ulcer presenting with paraspinal abscess
   with paraplegia at ~T10, osteomyelitis/diskitis.  Patient
s course
   complicated by a GIB, ARF resolved and now respiratory failure.
   # Hypercarbic respiratory failure
 Most likely cause is volume
   overload secondary to PRBC transfusion in patient with poor baseline
   pulmonary reserve given previous kyphoscoliosis, bilateral effusion and
   inability to fully expand lungs as previously noted in pulmonary
   consultation.  Successful extubation 2 days ago, complicated by
   desaturation to low 90's on [**1-4**] L NC.
   -continue diuresis; -2L yesterday. Currently on lasix 20mg IV daily;
   should titrate lasix to achieve goal of 1.5-2L negative daily
   -will do thoracentesis today, depending on cxr
 may not need if
   diuresing well
   -f/u cultures
   -repeat ABG  this AM; if remains stable and saturating well, can likely
   be transferred to the floors with more confidence in respiratory status
   # Hypertension
 Patient intermittently hypertensive at night, to 180's
   systolic
   -on PO metoprolol and lisinopril with variable effect.
   -continue to diurese- increase lasix to 20mg IV BID
   .
   # Paraspinal abscess/osteomyelitis -  Patient was on cefazolin for Coag
   + staph in wound.  TEE neg for vegetations; BCx negative to date.
   Afebrile. Currently restarted on cefazolin.
    - Fup with neurosurg/general surgery re: appropriateness for surgery;
   if general surgery will debride, neurosurg can take out hardware
    - continue wound care
   - f/u ID recs
   -f/u cultures
   - on solely cefazolin since afebrile/no white count
   .
   # GI bleed
 no evidence of active bleeding.  GI signed off.
   - continue pantoprazole IV BID
   .
   # INR
 Patient
s INR increased to 4.0 several days ago and pt was
   given Vit K 5 mg and FFP 4 units.
   -  Continue to monitor.
   .
   # CAD s/p CABG  - on  metoprolol. Discontinued aspirin [**2-4**] recent
   GIB.
   .
   # Dementia  - Continue Aricept.
   .
   # FEN
 minimize IVF if possible, NPO  -- pt noted to have unsafe
   swallow prior to intubation
 S/S recommended dysphagia diet. Pt was
   noted to have poor swallowing during meals. Soft meals with thickened
   liquids with 1:1 observation during meals per Nutrition recs. No
   aspiration seen on video swallow study.
   # PPx - pneumoboots
   # Access - PIV, PICC in R arm
   # Code - FULL, confirmed with HCP
   # Communication - patient, [**Name (NI) 203**] (HCP) [**Numeric Identifier 7998**] (home), [**Numeric Identifier 7999**]
   (cell)
   #Dispo- if respiratory status remains stable, to floors today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-9-3**] 09:49 PM
   20 Gauge - [**2188-9-4**] 01:15 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: to floors today potentially
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has responded well to lasix diuresis over the past 24 hours. She
   will need continued ( but slow) attempts to mobilize effusions over the
   next week with furosemide. If she gets oliguric and is persistently
   dyspneic, we will proceed to large volume thoracentesis of left
   effusion. She will transition out of ICU today and have continued
   strict aspiration precautions maintained while she is on the floor.
   Pulm/ IP services to follow on floor too.
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2188-9-7**] 14:52 ------

2188-09-08 06:29:00 Physician Resident Progress Note
Chief Complaint: 83 yo F c h/o chondrosarcoma s/p resection, posterior
   fixation s/p chronic, non-healing thoracic ulcer presenting with
   paraspinal abscess with paraplegia at ~T10, osteomyelitis/diskitis.
   Patient
s course complicated by a GIB, ARF, and now respiratory
   failure.  Now improving.
   24 Hour Events:
   -doing well extubated
   -ID says "to OR for hardware removal when stable"... is this
   happening?? will need to d/w neurosurg (if have not had this
   conversation already)
   -confused in afternoon c/o feeling like she was falling when lying in
   bed. Brief neuro exam essentially normal. Knew year and place, did not
   recall president. CN2-12 grossly intact. sensation in arms, pronator
   drift, and finger to nose all intact.
   -pt somewhat agitated @ night. got .25 haldol which is what she got at
   rehab
   -consider callout tomorrow
   -got an extra 20 of lasix in the afternoon and again in early am. 1
   liter neg at 10p.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-6**] 08:06 PM
   Cefazolin - [**2188-9-7**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-9-8**] 03:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-8**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 76 (74 - 113) bpm
   BP: 137/69(86) {93/58(75) - 196/108(116)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.6 kg (admission): 54.4 kg
   Height: 59 Inch
             Total In:
                                                                  1,050 mL
                                                                     68 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                    840 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    600 mL
   Urine:
                                                                  2,770 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -532 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.39/52/90.[**Numeric Identifier 433**]/30/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   389 K/uL
   10.8 g/dL
   128 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.5 mEq/L
   15 mg/dL
   102 mEq/L
   142 mEq/L
   34.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2188-9-4**]  03:14 PM
                             [**2188-9-5**]  03:04 AM
                             [**2188-9-5**]  09:08 AM
                             [**2188-9-5**]  02:43 PM
                             [**2188-9-6**]  04:05 AM
                             [**2188-9-6**]  06:05 PM
                             [**2188-9-7**]  02:53 AM
                             [**2188-9-7**]  10:22 AM
                             [**2188-9-7**]  03:39 PM
                             [**2188-9-8**]  03:06 AM
   WBC
   7.4
   11.1
   10.7
   10.2
   7.9
   Hct
   29.3
   34.0
   34.3
   35.9
   34.4
   Plt
   [**Telephone/Fax (3) 8133**]78
   389
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TCO2
   28
   32
   33
   Glucose
   81
   102
   87
   95
   92
   82
   128
   Other labs: PT / PTT / INR:20.3/32.7/1.9, CK / CKMB /
   Troponin-T:66//0.19, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:391 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ORTHOPEDIC DEVICE INFECTION (HARDWARE INFECTION, PROSTHETIC
   JOINT, ORTHOPAEDIC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   83 yo F c h/o chondrosarcoma s/p resection, posterior fixation s/p
   chronic, non-healing thoracic ulcer presenting with paraspinal abscess
   with paraplegia at ~T10, osteomyelitis/diskitis.  Patient
s course
   complicated by a GIB, ARF resolved and now respiratory failure.
   # Hypercarbic respiratory failure
 Most likely cause is volume
   overload secondary to PRBC transfusion in patient with poor baseline
   pulmonary reserve given previous kyphoscoliosis, bilateral effusion and
   inability to fully expand lungs as previously noted in pulmonary
   consultation.  Successful extubation, has been stable from respiratory
   standpoint.
   - continue to monitor respiratory status
   -thoracentesis was discussed, deferred.
   -f/u cultures
   -continue diuresis for goal of 1 L negative per day for now lasix 20IV
   [**Hospital1 **]
   -check sputum
   # Hypertension
 Patient intermittently hypertensive at night, to 180's
   systolic
   -on PO metoprolol
   -labetalol IV PRN
   .
   # Paraspinal abscess/osteomyelitis -  Patient was on cefazolin for Coag
   + staph in wound.  TEE neg for vegetations; BCx negative to date.
   Afebrile.
   - Fup with neurosurg/general surgery re: appropriateness for surgery;
   if general surgery will debride, neurosurg can take out hardware
   - continue wound care
   - f/u ID recs
   -f/u cultures
   - vancomycin DC-ed, narrowed to just cefazolin since afebrile/no white
   count
   .
   # GI bleed
 no evidence of active bleeding.  GI signed off.
   - continue pantoprazole IV BID
   .
   # INR
 Patient
s INR increased to 4.0 several days ago and pt was
   given Vit K 5 mg and FFP 4 units.  INR1.4.
   -  Continue to monitor.
   .
   # CAD s/p CABG  - on  metoprolol. Discontinued aspirin [**2-4**] recent
   GIB.
   .
   # Dementia  - Continue Aricept.
   .
   # FEN
 minimize IVF if possible, NPO  -- pt noted to have unsafe
   swallow prior to intubation
 S/S recommended dysphagia diet. Pt was
   noted to have poor swallowing during meals. Soft meals with thickened
   liquids with 1:1 observation during meals per Nutrition recs. No
   aspiration seen on video swallow study.
   # PPx - pneumoboots
   # Access - PIV, PICC in R arm
   # Code - FULL, confirmed with HCP
   # Communication - patient, [**Name (NI) 203**] (HCP) [**Numeric Identifier 7998**] (home), [**Numeric Identifier 7999**]
   (cell)
   #Dispo- if respiratory status remains stable, to floors today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2188-9-3**] 09:49 PM
   20 Gauge - [**2188-9-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   We will continue gentle diuresis and keep NPO ( except meds) for now
   till S/S has been performed again. She is too frail to tolerate major
   spinal surgery and with current pulmonary/ metal status issues and
   anticipated post operative needs, a likely candidate for prolonged
   mechanical ventilation. She will need left effusion tapped with IP
   service
s help this week to help with resting dyspnea. She is ready to
   leave the ICU today and we will request team to discuss directives of
   care with HCP after neuro-surgical staff have opined regarding future
   operative needs/ candidacy.
   Remainder of plan as outlined above.
   Patient is ill
   Total time: 25 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]